US07741354B2
Compound 64: 2-[[1-(2,2-Dimethyl-propyl)-1H-tetrazol-5-yl]-(3-imidazol-1-yl-propylamino)-methyl]-quinolin-8-ol
3-Imidazol-1-yl-propylamine (1 mmol) and 8-Hydroxy-quinoline-2-carbaldehyde (1 mmol) were combined in methanol (2 ml, dry). After 2 hours Trimethylsilylazide (5 mmol) and 1-Isocyano-2,2-dimethyl-propane (1 mmol) was added. The reaction was stirred at room temperature for 48 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 3-Imidazol-1-yl-propylamine | 1 mmol | N1(C=NC=C1)CCCN | C6H11N3
reactant | 8-Hydroxy-quinoline-2-carbaldehyde | 1 mmol | OC=1C=CC=C2C=CC(=NC12)C=O | C10H7NO2
reactant | Trimethylsilylazide | 5 mmol | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | 1-Isocyano-2,2-dimethyl-propane | 1 mmol | [N+](#[C-])CC(C)(C)C | C6H11N
solvent | methanol | 2 ml | CO | CH4O
product | 2-[[1-(2,2-Dimethyl-propyl)-1H-tetrazol-5-yl]-(3-imidazol-1-yl-propylamino)-methyl]-quinolin-8-ol | CC(CN1N=NN=C1C(C1=NC2=C(C=CC=C2C=C1)O)NCCCN1C=NC=C1)(C)C | C22H28N8O
